US06916827B2
2. Ethyl-2-(2-pyrimidin-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine
To a solution of N4-ethyl-pyridine-3,4-diamine (Justus Liebigs Ann. Chem. (1935) 518, 274, 287) (125 mg, 0.9 mmol) in dichloroethane (10 mL) is added a solution of AlMe3 in toluene (2M, 1.37 mL) dropwise under nitrogen. After addition, the mixture is stirred at room temperature for one hour and (2-pyrimidin-2-yl-imidazol-1-yl)-acetic acid methyl ester (100 mg, 0.45 mmol) is added in one portion. The reaction mixture is heated with stirring at 80° C. for 2 days. After cooled, the mixture is quenched with 5 mL of water, 2 drops of 5 N NaOH and extracted with CH2Cl2 (10 mL×5). The combined organic extracts are dried over Na2SO4, and concentrated. The residue is dissolved in 10 mL of acetic acid and the resulting mixture is heated at 100° C. overnight. After removal of acetic acid under vacuum, the residue is basified with saturated NaHCO3 solution and extracted with CH2Cl2 (10 mL×5). The combined organic extracts are dried over Na2SO4, and concentrated. The residue is purified on a silica gel column with 10:1 CH2Cl2/MeOH as eluent to yield the title compound (40 mg). 1H NMR (CDCl3) δ: 9.09 (s, 1H), 8.85 (d, 2H), 8.46 (d, 1H), 7.26-7.30 (m, 3H), 7.16 (1H), 6.39 (s, 2H), 4.25 (q, 2H), 1.15 (t, 3H).

reactant | N4-ethyl-pyridine-3,4-diamine | 0.9 mmol, 125 mg | C(C)NC1=C(C=NC=C1)N | C7H11N3
reactant | AlMe3 | C[Al](C)C
reactant | (2-pyrimidin-2-yl-imidazol-1-yl)-acetic acid methyl ester | 0.45 mmol, 100 mg | COC(CN1C(=NC=C1)C1=NC=CC=N1)=O | C10H10N4O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | toluene | 2M, 1.37 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl-2-(2-pyrimidin-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine | 40 mg | C(C)N1C(=NC=2C=NC=CC21)CN2C(=NC=C2)C2=NC=CC=N2 | C16H15N7
